US08466181B2
c) 2-Bromo-1-(4-(2-chlorophenyl)-1-methyl-1H-1,2,3-triazol-5-yl)ethanone
A solution of 1-(4-(2-chlorophenyl)-1-methyl-1H-1,2,3-triazol-5-yl)ethanone (1.02 g, 4.33 mmol) was dissolved in chloroform (7 mL) and acetic (0.136 mL) was heated to reflux and then a solution of bromine (0.234 mL, 4.54 mmol) in chloroform (3 mL) was added dropwise within 10 min at and after 1 h bromine (0.09 mL, 1.73 mmol) in chloroform (2 mL) was added and heated under reflux for 1 h. After cooling to room temperature the mixture was poured onto ice-water and the mixture extracted with dichloromethane. The combined organic extracts were washed with water, brine, dried over sodium sulphate, filtered and evaporated. Purification by chromatography (silica, 10 to 60% ethyl acetate in heptane) afforded the title compound (988 mg, 73%) as an off white solid. MS: m/e=313.9/315.9 [M+H]+.

reactant | 1-(4-(2-chlorophenyl)-1-methyl-1H-1,2,3-triazol-5-yl)ethanone | 4.33 mmol, 1.02 g | ClC1=C(C=CC=C1)C=1N=NN(C1C(C)=O)C | C11H10ClN3O
reactant | acetic | 0.136 mL | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
reactant | bromine | 4.54 mmol, 0.234 mL | BrBr | Br2
reactant | bromine | 1.73 mmol, 0.09 mL | BrBr | Br2
solvent | chloroform | 7 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 3 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 2 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-Bromo-1-(4-(2-chlorophenyl)-1-methyl-1H-1,2,3-triazol-5-yl)ethanone | 988 mg, 73% | BrCC(=O)C1=C(N=NN1C)C1=C(C=CC=C1)Cl | C11H9BrClN3O
